2150-03-08 07:38:00 Physician Resident Progress Note
Chief Complaint: altered mental status and respiratory failure
   24 Hour Events:
 ARTERIAL LINE - START [**2150-3-7**] 08:37 AM
 BLOOD CULTURED - At [**2150-3-8**] 12:30 AM
 URINE CULTURE - At [**2150-3-8**] 12:59 AM
 SPUTUM CULTURE - At [**2150-3-8**] 05:00 AM
 BLOOD CULTURED - At [**2150-3-8**] 05:00 AM
 FEVER - 101.2
F - [**2150-3-8**] 12:00 AM
   -Got CT abdomen and head: CT Abdomen w/ no acute intrabdominal
   pathology
   -CT head showed hyperdense area in posterior of right eye and there was
   concern for lens displacement, evalated by ophtho who evaluated and
   said lens is properly positioned and this is most likely just
   calcificed optic nerve/disk
   -Intermittently tachycardic and agitated, did well with increased
   sedation
   -Got one liter of fluid and CVP of 8 so received another unit with
   temporary decreased rate but then accelerated again CVP then 16
   -Second set CE's checked from ED and trending down
   Patient unable to provide history: Encephalopathy, intubated
   Allergies:
   Penicillins
   Rash;
   Darvocet-N 100 (Oral) (Propoxyphene/Acetaminophen)
   Palpitations;
   Aspirin
   contraindicated
   Amitriptyline
   supratherapeuti
   Wellbutrin (Oral) (Bupropion Hcl)
   Mania;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2150-3-7**] 08:19 PM
   Vancomycin - [**2150-3-7**] 08:43 PM
   Metronidazole - [**2150-3-8**] 06:02 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-3-7**] 04:00 PM
   Famotidine (Pepcid) - [**2150-3-7**] 08:20 PM
   Fentanyl - [**2150-3-8**] 05:01 AM
   Midazolam (Versed) - [**2150-3-8**] 05:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-3-8**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.1
   HR: 106 (89 - 115) bpm
   BP: 111/77(92) {74/53(63) - 146/107(118)} mmHg
   RR: 20 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 9 (8 - 361)mmHg
   Total In:
                                                                  5,707 mL
                                                                    489 mL
   PO:
   TF:
   IVF:
                                                                  4,807 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  3,505 mL
                                                                  1,140 mL
   Urine:
                                                                  3,505 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,202 mL
                                                                   -651 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability, Agitated
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.42/43/85/29/2
   Ve: 5.6 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, Bowel sounds present, Distended, Tender: in epigastrum
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   204 K/uL
   8.6 g/dL
   100 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.2 mEq/L
   5 mg/dL
   110 mEq/L
   144 mEq/L
   27.1 %
   11.6 K/uL
        [image002.jpg]
                             [**2150-3-7**]  01:23 AM
                             [**2150-3-7**]  03:28 AM
                             [**2150-3-7**]  06:39 AM
                             [**2150-3-7**]  01:16 PM
                             [**2150-3-7**]  01:31 PM
                             [**2150-3-7**]  09:15 PM
                             [**2150-3-7**]  09:27 PM
                             [**2150-3-7**]  11:04 PM
                             [**2150-3-8**]  05:02 AM
   WBC
   12.0
   13.5
   11.6
   Hct
   32.1
   29.1
   27.1
   Plt
   [**Telephone/Fax (3) 8163**]
   Cr
   0.6
   0.5
   0.5
   0.4
   TropT
   0.03
   0.06
   0.04
   TCO2
   34
   32
   31
   29
   29
   Glucose
   108
   98
   133
   204
   100
   Other labs: PT / PTT / INR:14.3/27.5/1.2, CK / CKMB /
   Troponin-T:180/7/0.04, ALT / AST:20/21, Alk Phos / T Bili:113/0.6,
   Amylase / Lipase:45/11, Differential-Neuts:79.4 %, Lymph:13.9 %,
   Mono:4.4 %, Eos:1.6 %, Lactic Acid:1.7 mmol/L, Albumin:3.4 g/dL,
   LDH:217 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Imaging: CT Abdomen and Pelvis (PFI):
    No acute intra-abdominal pathology
   CT Head w/o contrast (our read):
   No obvious bleed
   Microbiology: [**2150-3-8**]:
    >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE
   COCCI.                                     IN PAIRS AND CLUSTERS.
   Assessment and Plan
   This is a 55 year-old female with multiple medical problems including
   HTN, PVD, chronic pain on oxycodone, OSA, ? Crohn
s disease and on
   multiple sedating meds who presented with altered mental status and
   fever after being found down by her son.
    #. Altered mental status:  This was the initial etiology of the
   patient
s need for intubation.  Differential is broad but given
   significant agitation component and lack of focality some suggestion
   this is most likely toxic-metabolic encephalopathy or delirium.  No
   nuchal rigidity, photophobia, or focal neural deficits.  Etiology
   currently unclear with pneumosepsis or other infection vs encephalitis
   vs seizure activity and post-ictal state all being possibilities.  ICU
   delirium in the context of chronic microvascular changes is also a
   concern.   Given patient was hypoxic slightly after being found
   prolonged hypoxia and anoxic brain injury is also on the differential.
   - hold sedatives
   -Continue ID w/u and follow cultures
   - Consider LP to r/o encephalitis
   - Head CT appears stable, follow final read and consider MRI PRN
   -Consider neuro consult if persistent MS changes after hypotension and
   other issues are stabilized
   -F/U TSH, B12, RPR
   #. Hypoxemic respiratory failure:  Liklely respiratory acidosis with
   metabolic compensation at baseline secondary to COPD.  Given pneumonia
   potential for tiring in already suboptimal lung now burdened with
   infiltrate.
   - continue assist control on ventilator
   - broad spectrum antibx with vanco/cipro/flagyl because of penicillin
   allergy
   - consider chest CTA
   - keep PCO2 at baseline of ~50.
   #Hypotension: The patient has developed somewhat fluid responsive
   relative hypotension overnight.  Etiology is unclear and possible
   etiologies would consider cardiogenic shock vs septic shock vs SIRS vs
   neurogenic shock.  Cardiogenic shock considered less likely due to no
   signs of volume overload.  Other etiologies both have some evidence to
   support.
   -Continue broad spectrum abx and f/u cx
   -Neuro work-up as above
   #EKG changes: Persistent T-wave inversions if V1-V6 and low voltage in
   limb leads with normal voltage in precordials is a strange pattern.
   Not associated particularly with  MI and enzymes falling but given
   association with hypotension this is concerning.
   -Cardiology consult.
   #. Fever/Leukocytosis:  Normal pancreatic enzymes and benign CT suggest
   abdominal etiology less likely.  Major differential now is pneumonia vs
   meningitis vs spontaneous bacteremia.
   - pan culture if spikes
   - vanc/levo/flagyl
   - consider cefepime/gent if clinically worsens
   #. Pancreatitis:  Minimal elevations in amylase and lipase here despite
   reported very high level at OSH.  This does not seem to be the etiology
   of the patient
s symptoms.
   #. Crohns Disease:  Followed by Dr. [**First Name (STitle) 1604**]; per OMR  notes, this
   diagnosis is mainly symptom based with little objective evidence.  EGD
   and colonoscopy normal in 1/[**2150**].  PO budesonide minimally absorbed but
   as she is on this chronically and adrenal insufficiency is on the
   differential for hypotension we will check for adrenal insufficiencty.
   -Random serum cortisol.
   #. Chronic Pain:  On fentanyl for sedation, holding other opiates.
   #. HTN: holding lisinopril and atenolol in setting of possible acute
   infection
   #. Cushings syndrome:  Secondary to chronic prednisone.  Will convert
   to methylprednisolone.
   #. Hyperlipidemia: stable.
   - continue atorvostatin
   #. Obstructive sleep apnea:  Will clarify whether patient uses BiPap at
   home.
   #. Depression/anxiety:  will hold home meds while evaluating mental
   status but consider d/c'ing sucraflate given negative EGD recently, as
   may be decreasing absorption of other medications.
   #. COPD:  On baseline home O2 of 3L and has a long smoking history.
   Respiratory failure management as above.
   #. Cor pulmonale:  Has [**3-18**]+ TR at baseline.  Continue to follow.
   #. PVD s/p bilateral CIA stenting in [**6-/2149**]:  continue to follow
   #. ?Seizure disorder:  evaulated in [**1-/2150**]: EEG showing some fcal
   slowing in the left anterior temporal area, but felt to be
   non-specific, holding on seizure meds for now.
   FEN:  tube feed reccs in a.m., IVF prn
   PPX: DVT ppx with hep sc, Bowel regimen with colace, famotidine
    ACCESS: PIV's, CVL, will place A-line
   CODE STATUS: Presumed full
    EMERGENCY CONTACT: HCP is sister: [**Name (NI) 141**] [**Name (NI) 8149**] at
   [**Telephone/Fax (1) 8150**] and secondary HCP is son [**Name (NI) 268**] [**Name (NI) 8151**] at
   same #.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-3-7**] 04:45 AM
   Arterial Line - [**2150-3-7**] 08:37 AM
   20 Gauge - [**2150-3-7**] 12:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2150-03-08 11:04:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ARTERIAL LINE - START [**2150-3-7**] 08:37 AM
 BLOOD CULTURED - At [**2150-3-8**] 12:30 AM
 URINE CULTURE - At [**2150-3-8**] 12:59 AM
 SPUTUM CULTURE - At [**2150-3-8**] 05:00 AM
 BLOOD CULTURED - At [**2150-3-8**] 05:00 AM
 FEVER - 101.2
F - [**2150-3-8**] 12:00 AM
 IVF bolus for SBP 70s w/ [**Month (only) 38**] CVP -> resolved with bolus
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Darvocet-N 100 (Oral) (Propoxyphene/Acetaminophen)
   Palpitations;
   Aspirin
   contraindicated
   Amitriptyline
   supratherapeuti
   Wellbutrin (Oral) (Bupropion Hcl)
   Mania;
   Last dose of Antibiotics:
   Metronidazole - [**2150-3-8**] 06:02 AM
   Vancomycin - [**2150-3-8**] 08:00 AM
   Ciprofloxacin - [**2150-3-8**] 08:35 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2150-3-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2150-3-8**] 08:00 AM
   Fentanyl - [**2150-3-8**] 08:30 AM
   Midazolam (Versed) - [**2150-3-8**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-3-8**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.7
C (98.1
   HR: 88 (82 - 115) bpm
   BP: 96/67(80) {74/53(63) - 146/107(118)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 15 (8 - 361)mmHg
   Total In:
                                                                  5,707 mL
                                                                  2,013 mL
   PO:
   TF:
   IVF:
                                                                  4,807 mL
                                                                  1,793 mL
   Blood products:
   Total out:
                                                                  3,505 mL
                                                                  1,440 mL
   Urine:
                                                                  3,505 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,202 mL
                                                                    573 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability, Agitated
   PIP: 30 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.42/43/85.[**Numeric Identifier 128**]/29/2
   Ve: 6.8 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Tender: epigastrum
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   204 K/uL
   100 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.2 mEq/L
   5 mg/dL
   110 mEq/L
   144 mEq/L
   27.1 %
   11.6 K/uL
        [image002.jpg]
                             [**2150-3-7**]  01:23 AM
                             [**2150-3-7**]  03:28 AM
                             [**2150-3-7**]  06:39 AM
                             [**2150-3-7**]  01:16 PM
                             [**2150-3-7**]  01:31 PM
                             [**2150-3-7**]  09:15 PM
                             [**2150-3-7**]  09:27 PM
                             [**2150-3-7**]  11:04 PM
                             [**2150-3-8**]  05:02 AM
   WBC
   12.0
   13.5
   11.6
   Hct
   32.1
   29.1
   27.1
   Plt
   [**Telephone/Fax (3) 8163**]
   Cr
   0.6
   0.5
   0.5
   0.4
   TropT
   0.03
   0.06
   0.04
   TCO2
   34
   32
   31
   29
   29
   Glucose
   108
   98
   133
   204
   100
   Other labs: PT / PTT / INR:14.3/27.5/1.2, CK / CKMB /
   Troponin-T:180/7/0.04, ALT / AST:20/21, Alk Phos / T Bili:113/0.6,
   Amylase / Lipase:45/11, Differential-Neuts:79.4 %, Lymph:13.9 %,
   Mono:4.4 %, Eos:1.6 %, Lactic Acid:1.7 mmol/L, Albumin:3.4 g/dL,
   LDH:217 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   50 y/o found minimally responsive, hypoxemic, elevated lipase with
   epigastric abd pain.
   Altered MS, epigastric tenderness w/ elevated lipase and fever,
   elevated WBC, sig sputum with +GS
    #? Pancreatitis
                   -no h/o ETOH, tox screen
                   -GS vs. med most likely
                   -lipase trending downward
                   -abd CT - no acute pathology
   #Respiratory failure
                   -severe COPD at baseline, home O2, pHTN
                   -Pneumonia vs. tracheobronchitis
                   -Cont require mech vent
                   -Decrease set rate on vent, currently iatrogenic
   relative resp alkalosis
   #Hypotension w/ EKG changes
   - hypotension responding to ivf boluses
   - EKG w/ new deep T-wave inversions, low limb lead voltage
   - last troponin trending toward improvement
   - ? new cardiac event - though ST segments not impressive
   - other possibilities include CNS event (though head CT yesterday - no
   path), electrolyte abnormalities (non seen on labs), med effect
   - consult cardiology re: evolving EKG in setting of hypotension but
   improving troponin
   - cycle CK/MB, Troponin
   #Pnuemonia vs. tracheobronchitis
   -empiric abx pending cs data
   -cont mech ventiliation
   #Fever, WBC
   -Pneumonia most likely etiology
   #COPD
   -cont MDIs
   -cont steroids
   #Hemodyn
   -tachycardic but BP stable
   -gentle fluid resuscitation
    #Altered mental status
   -improved this morning
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-3-7**] 04:45 AM
   Arterial Line - [**2150-3-7**] 08:37 AM
   20 Gauge - [**2150-3-7**] 12:14 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 40 minutes
   Patient is critically ill

2150-03-09 08:11:00 Physician Resident Progress Note
Chief Complaint: AMS
   24 Hour Events:
 EKG - At [**2150-3-8**] 09:44 AM
   EKG obtained - T-inversion noted in inferolateral leads.
 TRANSTHORACIC ECHO - At [**2150-3-8**] 12:55 PM
   -Cards consulted for hypotension, new flipped T's and flat CE's:
   bedside echo not all that remarkable but unable to fully visualize
   apex. Given her clean coronaries [**2-22**], could be Takotsubo's
   cardiomyopathy. Perhaps in setting of cocaine or MAOI use. Recommend
   avoiding catecholamines for pressors. Will recheck TTE in am with
   special definity imaging of apex PRN
   -RPR sent
   -cortisol 12.9 in afternoon. Will add on to Mon am labs
   -bolused 2.5L NS during day for hypotension
   - during day, intermittently responsive to nursing in a purposeful way
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Darvocet-N 100 (Oral) (Propoxyphene/Acetaminophen)
   Palpitations;
   Aspirin
   contraindicated
   Amitriptyline
   supratherapeuti
   Wellbutrin (Oral) (Bupropion Hcl)
   Mania;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2150-3-8**] 08:00 PM
   Vancomycin - [**2150-3-8**] 08:34 PM
   Metronidazole - [**2150-3-9**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-3-8**] 04:00 PM
   Midazolam (Versed) - [**2150-3-8**] 08:00 PM
   Fentanyl - [**2150-3-8**] 08:00 PM
   Famotidine (Pepcid) - [**2150-3-8**] 08:35 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**2-16**] intubation
   Flowsheet Data as of  [**2150-3-9**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 91 (78 - 112) bpm
   BP: 100/66(81) {73/49(60) - 118/83(98)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (6 - 332)mmHg
   Total In:
                                                                  3,711 mL
                                                                  1,732 mL
   PO:
   TF:
   IVF:
                                                                  3,311 mL
                                                                  1,732 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                    600 mL
   Urine:
                                                                  2,420 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,291 mL
                                                                  1,132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 40
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: 7.37/42/95.[**Numeric Identifier 96**]/25/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   181 K/uL
   7.6 g/dL
   107 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.4 mEq/L
   8 mg/dL
   114 mEq/L
   145 mEq/L
   24.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2150-3-7**]  09:15 PM
                             [**2150-3-7**]  09:27 PM
                             [**2150-3-7**]  11:04 PM
                             [**2150-3-8**]  05:02 AM
                             [**2150-3-8**]  10:32 AM
                             [**2150-3-8**]  11:11 AM
                             [**2150-3-8**]  11:29 AM
                             [**2150-3-9**]  12:21 AM
                             [**2150-3-9**]  04:49 AM
                             [**2150-3-9**]  05:12 AM
   WBC
   13.5
   11.6
   9.7
   Hct
   29.1
   27.1
   24.0
   Plt
   [**Telephone/Fax (3) 8173**]
   Cr
   0.5
   0.4
   1.0
   TropT
   0.06
   0.04
   0.02
   TCO2
   29
   29
   29
   28
   27
   25
   Glucose
   [**Telephone/Fax (3) 8174**]
   Other labs: PT / PTT / INR:14.2/30.4/1.2, CK / CKMB /
   Troponin-T:123/4/0.02, ALT / AST:20/21, Alk Phos / T Bili:113/0.6,
   Amylase / Lipase:45/11, Differential-Neuts:79.4 %, Lymph:13.9 %,
   Mono:4.4 %, Eos:1.6 %, Lactic Acid:1.7 mmol/L, Albumin:3.4 g/dL,
   LDH:217 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 .H/O CARDIOMYOPATHY, OTHER
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   This is a 55 year-old female with multiple medical problems including
   HTN, PVD, chronic pain on oxycodone, OSA, ? Crohn
s disease and on
   multiple sedating meds who presented with altered mental status and
   fever after being found down by her son.
    #. Altered mental status:  This was the initial etiology of the
   patient
s need for intubation.  Differential is broad but given
   significant agitation component and lack of focality some suggestion
   this is most likely toxic-metabolic encephalopathy or delirium.  No
   nuchal rigidity, photophobia, or focal neural deficits.  Etiology
   currently unclear with pneumosepsis or other infection vs encephalitis
   vs seizure activity and post-ictal state all being possibilities.  ICU
   delirium in the context of chronic microvascular changes is also a
   concern.   Given patient was hypoxic slightly after being found
   prolonged hypoxia and anoxic brain injury is also on the differential.
   - hold sedatives
   -Continue ID w/u and follow cultures
   - Consider LP to r/o encephalitis
   - Head CT appears stable, follow final read and consider MRI PRN
   -Consider neuro consult if persistent MS changes after hypotension and
   other issues are stabilized
   -F/U TSH, B12, RPR
   #. Hypoxemic respiratory failure:  Liklely respiratory acidosis with
   metabolic compensation at baseline secondary to COPD.  Given pneumonia
   potential for tiring in already suboptimal lung now burdened with
   infiltrate.
   - continue assist control on ventilator
   - broad spectrum antibx with vanco/cipro/flagyl because of penicillin
   allergy
   - consider chest CTA
   - keep PCO2 at baseline of ~50.
   #Hypotension: The patient has developed somewhat fluid responsive
   relative hypotension overnight.  Etiology is unclear and possible
   etiologies would consider cardiogenic shock vs septic shock vs SIRS vs
   neurogenic shock.  Cardiogenic shock considered less likely due to no
   signs of volume overload.  Other etiologies both have some evidence to
   support.
   -Continue broad spectrum abx and f/u cx
   -Neuro work-up as above
    #EKG changes: Persistent T-wave inversions if V1-V6 and low voltage in
   limb leads with normal voltage in precordials is a strange pattern.
   Not associated particularly with  MI and enzymes falling but given
   association with hypotension this is concerning.
   -Cardiology consult.
   #. Fever/Leukocytosis:  Normal pancreatic enzymes and benign CT suggest
   abdominal etiology less likely.  Major differential now is pneumonia vs
   meningitis vs spontaneous bacteremia.
   - pan culture if spikes
   - vanc/levo/flagyl
   - consider cefepime/gent if clinically worsens
   #. Pancreatitis:  Minimal elevations in amylase and lipase here despite
   reported very high level at OSH.  This does not seem to be the etiology
   of the patient
s symptoms.
   #. Crohns Disease:  Followed by Dr. [**First Name (STitle) 1604**]; per OMR  notes, this
   diagnosis is mainly symptom based with little objective evidence.  EGD
   and colonoscopy normal in 1/[**2150**].  PO budesonide minimally absorbed but
   as she is on this chronically and adrenal insufficiency is on the
   differential for hypotension we will check for adrenal insufficiencty.
   -Random serum cortisol.
   #. Chronic Pain:  On fentanyl for sedation, holding other opiates.
   #. HTN: holding lisinopril and atenolol in setting of possible acute
   infection
   #. Cushings syndrome:  Secondary to chronic prednisone.  Will convert
   to methylprednisolone.
   #. Hyperlipidemia: stable.
   - continue atorvostatin
   #. Obstructive sleep apnea:  Will clarify whether patient uses BiPap at
   home.
   #. Depression/anxiety:  will hold home meds while evaluating mental
   status but consider d/c'ing sucraflate given negative EGD recently, as
   may be decreasing absorption of other medications.
   #. COPD:  On baseline home O2 of 3L and has a long smoking history.
   Respiratory failure management as above.
   #. Cor pulmonale:  Has [**3-18**]+ TR at baseline.  Continue to follow.
   #. PVD s/p bilateral CIA stenting in [**6-/2149**]:  continue to follow
   #. ?Seizure disorder:  evaulated in [**1-/2150**]: EEG showing some fcal
   slowing in the left anterior temporal area, but felt to be
   non-specific, holding on seizure meds for now.
   FEN:  tube feed reccs in a.m., IVF prn
   PPX: DVT ppx with hep sc, Bowel regimen with colace, famotidine
    ACCESS: PIV's, CVL, will place A-line
   CODE STATUS: Presumed full
    EMERGENCY CONTACT: HCP is sister: [**Name (NI) 141**] [**Name (NI) 8149**] at
   [**Telephone/Fax (5) 8150**] and secondary HCP is son [**Name (NI) 268**] [**Name (NI) 8151**] at
   same #.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2150-3-7**] 04:45 AM
   Arterial Line - [**2150-3-7**] 08:37 AM
   20 Gauge - [**2150-3-7**] 12:14 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2150-03-09 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2150-3-8**] 09:44 AM
   EKG obtained - T-inversion noted in inferolateral leads.
 TRANSTHORACIC ECHO - At [**2150-3-8**] 12:55 PM
   Allergies:
   Penicillins
   Rash;
   Darvocet-N 100 (Oral) (Propoxyphene/Acetaminophen)
   Palpitations;
   Aspirin
   contraindicated
   Amitriptyline
   supratherapeuti
   Wellbutrin (Oral) (Bupropion Hcl)
   Mania;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2150-3-8**] 08:00 PM
   Metronidazole - [**2150-3-9**] 06:00 AM
   Vancomycin - [**2150-3-9**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2150-3-8**] 08:00 PM
   Fentanyl - [**2150-3-8**] 08:00 PM
   Famotidine (Pepcid) - [**2150-3-8**] 08:35 PM
   Heparin Sodium (Prophylaxis) - [**2150-3-9**] 08:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-3-9**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 79 (78 - 112) bpm
   BP: 69/45(56) {69/45(56) - 118/83(98)} mmHg
   RR: 14 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 21 (6 - 332)mmHg
   Total In:
                                                                  3,711 mL
                                                                  2,120 mL
   PO:
   TF:
   IVF:
                                                                  3,311 mL
                                                                  1,970 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                    780 mL
   Urine:
                                                                  2,420 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,291 mL
                                                                  1,340 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 40
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.37/42/95.[**Numeric Identifier 96**]/25/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   181 K/uL
   107 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.4 mEq/L
   8 mg/dL
   114 mEq/L
   145 mEq/L
   24.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2150-3-7**]  09:15 PM
                             [**2150-3-7**]  09:27 PM
                             [**2150-3-7**]  11:04 PM
                             [**2150-3-8**]  05:02 AM
                             [**2150-3-8**]  10:32 AM
                             [**2150-3-8**]  11:11 AM
                             [**2150-3-8**]  11:29 AM
                             [**2150-3-9**]  12:21 AM
                             [**2150-3-9**]  04:49 AM
                             [**2150-3-9**]  05:12 AM
   WBC
   13.5
   11.6
   9.7
   Hct
   29.1
   27.1
   24.0
   Plt
   [**Telephone/Fax (3) 8173**]
   Cr
   0.5
   0.4
   1.0
   TropT
   0.06
   0.04
   0.02
   TCO2
   29
   29
   29
   28
   27
   25
   Glucose
   [**Telephone/Fax (3) 8174**]
   Other labs: PT / PTT / INR:14.2/30.4/1.2, CK / CKMB /
   Troponin-T:123/4/0.02, ALT / AST:20/21, Alk Phos / T Bili:113/0.6,
   Amylase / Lipase:45/11, Differential-Neuts:79.4 %, Lymph:13.9 %,
   Mono:4.4 %, Eos:1.6 %, Lactic Acid:1.7 mmol/L, Albumin:3.4 g/dL,
   LDH:217 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR - Blossoming infiltrates in BLL with associated
   effusions.
   Microbiology: [**3-8**] Sputum GS: GPC pairs and clusters; [**3-7**] Sputum CX
   MSSA;
   RPR negative
   Assessment and Plan
   50 y/o F with h/o chronic pain on methadone, severe COPD with pulm HTN,
   Crohn's on steroids, here with hypoxemic respiratory failure,
   ?pancreatitis.  Found lethargic at home, minimal responsive to narcan,
   to ED - intubated, copious secretions and aspiration.  Now with
   concerns for Takotsubo cardiomyopathy.
   Altered MS, epigastric tenderness w/ elevated lipase and fever,
   elevated WBC, sig sputum with +GS
    #? Pancreatitis
                   -no h/o ETOH, tox screen
                   -GS vs. med most likely
                   -lipase trending downward
                   -abd CT - no acute pathology
   #Respiratory failure
                   -severe COPD at baseline, home O2, pHTN
                   -Pneumonia vs. tracheobronchitis
                   -Cont require mech vent
                   -Decrease set rate on vent, currently iatrogenic
   relative resp alkalosis
   #Hypotension w/ EKG changes
   - hypotension responding to ivf boluses
   - EKG w/ new deep T-wave inversions, low limb lead voltage
   - last troponin trending toward improvement
   - ? new cardiac event - though ST segments not impressive
   - other possibilities include CNS event (though head CT yesterday - no
   path), electrolyte abnormalities (non seen on labs), med effect
   - consult cardiology re: evolving EKG in setting of hypotension but
   improving troponin
   - cycle CK/MB, Troponin
   #Pnuemonia vs. tracheobronchitis
   -empiric abx pending cs data
   -cont mech ventiliation
   #Fever, WBC
   -Pneumonia most likely etiology
   #COPD
   -cont MDIs
   -cont steroids
   #Hemodyn
   -tachycardic but BP stable
   -gentle fluid resuscitation
    #Altered mental status
   -improved this morning
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-3-7**] 04:45 AM
   Arterial Line - [**2150-3-7**] 08:37 AM
   20 Gauge - [**2150-3-7**] 12:14 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-03-10 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 55 year-old female with multiple medical problems
   including HTN, PVD, chronic pain on oxycodone, OSA, ? Crohn
s disease
   and on multiple sedating meds who presented with altered mental status
   and fever after being found down by her son.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2150-3-9**] 09:29 PM
   - vanc/flagyl/cipro d/c'd. started on levofloxacin.
   - ECHO shows normal LVEF
   - Neuro consult called for further eval of AMS:  will f/u EEG, try and
   wean sedating meds, no anti-eleptics for now; will cont to follow
   patient
   - EEG not read but per neurology no evidence of status epilepticus
   - Started on hydrocortisone for budesonide replacement
   - antibiotics tapered down to just levofloxacin
   - started on labetalol for HR control in setting of ?takotsubo's
   - following manual BPs in left arm as likely subclav stenosis in R arm
   proximal to A-line-->30 pt SBP difference
   - got MRI of head - scattered, few white matter lesions in parietal
   lobe per my read :)
   - Hypocalcemic and placed on po calcium/vit D and calcium repletion
   scale
   Allergies:
   Penicillins
   Rash;
   Darvocet-N 100 (Oral) (Propoxyphene/Acetaminophen)
   Palpitations;
   Aspirin
   contraindicated
   Amitriptyline
   supratherapeuti
   Wellbutrin (Oral) (Bupropion Hcl)
   Mania;
   Last dose of Antibiotics:
   Metronidazole - [**2150-3-9**] 06:00 AM
   Vancomycin - [**2150-3-9**] 08:00 AM
   Ciprofloxacin - [**2150-3-9**] 09:16 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2150-3-9**] 09:16 AM
   Furosemide (Lasix) - [**2150-3-9**] 06:20 PM
   Heparin Sodium (Prophylaxis) - [**2150-3-10**] 01:32 AM
   Midazolam (Versed) - [**2150-3-10**] 03:15 AM
   Fentanyl - [**2150-3-10**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-3-10**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 87 (66 - 108) bpm
   BP: 123/80(98) {69/45(56) - 125/83(102)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 20 (5 - 21)mmHg
   Total In:
                                                                  2,912 mL
                                                                  1,050 mL
   PO:
   TF:
   IVF:
                                                                  2,462 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  3,780 mL
                                                                    340 mL
   Urine:
                                                                  3,780 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -868 mL
                                                                    710 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 429 (429 - 429) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   Plateau: 0 cmH2O
   SpO2: 97%
   ABG: 7.37/42/95.[**Numeric Identifier 96**]/24/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   217 K/uL
   7.6 g/dL
   134 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.7 mEq/L
   14 mg/dL
   111 mEq/L
   144 mEq/L
   24.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2150-3-8**]  11:11 AM
                             [**2150-3-8**]  11:29 AM
                             [**2150-3-9**]  12:21 AM
                             [**2150-3-9**]  04:49 AM
                             [**2150-3-9**]  05:12 AM
                             [**2150-3-9**]  05:51 PM
                             [**2150-3-9**]  06:47 PM
                             [**2150-3-10**]  04:59 AM
                             [**2150-3-10**]  05:20 AM
                             [**2150-3-10**]  07:34 AM
   WBC
   9.7
   8.6
   Hct
   24.0
   25.1
   24.7
   Plt
   181
   217
   Cr
   1.0
   1.3
   1.3
   TropT
   0.02
   TCO2
   28
   27
   25
   27
   25
   Glucose
   107
   164
   134
   Other labs: PT / PTT / INR:14.4/28.3/1.3, CK / CKMB /
   Troponin-T:123/4/0.02, ALT / AST:20/21, Alk Phos / T Bili:113/0.6,
   Amylase / Lipase:45/11, Differential-Neuts:87.3 %, Lymph:8.8 %,
   Mono:3.5 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Albumin:3.4 g/dL,
   LDH:217 IU/L, Ca++:7.7 mg/dL, Mg++:3.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   55 year-old female with multiple medical problems including HTN, PVD,
   chronic pain on oxycodone, OSA, ? Crohn
s disease and on multiple
   sedating meds who presented with altered mental status and fever after
   being found down by her son.
   #. Altered mental status:  This was the initial etiology of the
   patient
s need for intubation.  Differential is broad but given
   significant agitation component and lack of focality some suggestion
   this is most likely toxic-metabolic encephalopathy or delirium.  No
   nuchal rigidity, photophobia, or focal neural deficits.  Etiology
   currently unclear with pneumosepsis or other infection vs encephalitis
   vs seizure activity and post-ictal state all being possibilities.  ICU
   delirium in the context of chronic microvascular changes is also a
   concern.   Given patient was hypoxic slightly after being found
   prolonged hypoxia and anoxic brain injury is also on the differential.
   Head CT appears stable this admission.  Neuro consulted on [**3-9**] and did
   uncover some focal deficits.
   - f/u neuro reccs
   - f/u EEG and MRI head
   -
   -will consult Neuro today. Will d/w them getting EEG and possible MRI
   head
   -continuing cards w/u as below
   -have been in contact with [**Name (NI) **] [**Last Name (NamePattern1) 8178**] preceptor for pt
s PCP. [**Name10 (NameIs) **] [**Name Initial (NameIs) **]/b
   with him today
   #. Hypoxemic respiratory failure:  Liklely respiratory acidosis with
   metabolic compensation at baseline secondary to COPD.  Given pneumonia
   potential for tiring in already suboptimal lung now burdened with
   infiltrate.
   - narrowing Abx to levo today as pt no longer febrile and CXR looking
   slightly better
   - wean vent as tolerated
   - diurese as able today given borderline BP
   #Hypotension: The patient developed somewhat fluid responsive relative
   hypotension overnight [**3-10**].  Etiology is unclear and possible
   etiologies would consider cardiogenic shock vs septic shock vs SIRS vs
   neurogenic shock.  Cardiogenic shock considered less likely due to no
   signs of volume overload.  Other etiologies both have some evidence to
   support. Cards consulted in am [**3-8**] and looking at Tokatsubo
   cardiomyopathy as possibly etiology of sx.
   -f/u cards recs
   -Labetalol low dose as BPs tolerated today
   -Hydrocort stress dose ordered.
   -rpt EKG today
   -Following LUE non-invasive BP
   #EKG changes: Persistent T-wave inversions if V1-V6 and low voltage in
   limb leads with normal voltage in precordials is a strange pattern.
   Not associated particularly with  MI and enzymes falling but given
   association with hypotension this is concerning.
   -rpt EKG today and f/u cards recs.
   #. Fever/Leukocytosis:  Normal pancreatic enzymes and benign CT suggest
   abdominal etiology less likely.  Most likely [**2-16**] PNA
   - culture if spikes
   -levo monotherapy for now
   #. Pancreatitis:  Minimal elevations in amylase and lipase here despite
   reported very high level at OSH.  This does not seem to be the etiology
   of the patient
s symptoms.
   #. Crohns Disease:  Followed by Dr. [**First Name (STitle) 1604**]; per OMR  notes, this
   diagnosis is mainly symptom based with little objective evidence.  EGD
   and colonoscopy normal in 1/[**2150**].  PO budesonide minimally absorbed but
   as she is on this chronically and adrenal insufficiency is on the
   differential for hypotension we will check for adrenal insufficiencty.
   -stress dose hydrocort ordered today
   #. Chronic Pain:  On fentanyl for sedation, holding other opiates.
   #. HTN: holding lisinopril and atenolol in setting of borderline BP
   #. Cushings syndrome:  Secondary to chronic prednisone.  Getting stress
   dose hydrocort today .
   #. Hyperlipidemia: stable.
   - continue atorvostatin
   #. Obstructive sleep apnea:  Will clarify whether patient uses BiPap at
   home.
   #. Depression/anxiety: Will restart home meds today.
   #. COPD:  On baseline home O2 of 3L and has a long smoking history.
   Respiratory failure management as above.
   #. Cor pulmonale:  Has [**3-18**]+ TR at baseline.  Continue to follow.
   #. PVD s/p bilateral CIA stenting in [**6-/2149**]:  continue to follow
   #. ?Seizure disorder:  evaulated in [**1-/2150**]: EEG showing some fcal
   slowing in the left anterior temporal area, but felt to be
   non-specific. Neuro c/s and EEG as above
    EMERGENCY CONTACT: HCP is sister: [**Name (NI) 141**] [**Name (NI) 8149**] at
   [**Telephone/Fax (1) 8150**] and secondary HCP is son [**Name (NI) 268**] [**Name (NI) 8151**] at
   same #.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-3-7**] 04:45 AM
   Arterial Line - [**2150-3-7**] 08:37 AM
   20 Gauge - [**2150-3-7**] 12:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2150-03-10 09:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI: Respiratory falilure
   24 Hour Events:
   EEG
   MRI
   Neuro consult
   TTE
   Cardiology consult
   Allergies:
   Penicillins
   Rash;
   Darvocet-N 100 (Oral) (Propoxyphene/Acetaminophen)
   Palpitations;
   Aspirin
   contraindicated
   Amitriptyline
   supratherapeuti
   Wellbutrin (Oral) (Bupropion Hcl)
   Mania;
   Last dose of Antibiotics:
   Metronidazole - [**2150-3-9**] 06:00 AM
   Vancomycin - [**2150-3-9**] 08:00 AM
   Ciprofloxacin - [**2150-3-9**] 09:16 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2150-3-9**] 06:20 PM
   Midazolam (Versed) - [**2150-3-10**] 03:15 AM
   Fentanyl - [**2150-3-10**] 03:15 AM
   Famotidine (Pepcid) - [**2150-3-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2150-3-10**] 08:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-3-10**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.6
C (96
   HR: 92 (66 - 108) bpm
   BP: 105/70(85) {76/49(60) - 125/83(102)} mmHg
   RR: 14 (10 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 17 (5 - 20)mmHg
   Total In:
                                                                  2,912 mL
                                                                  1,297 mL
   PO:
   TF:
   IVF:
                                                                  2,462 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  3,780 mL
                                                                    390 mL
   Urine:
                                                                  3,780 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -868 mL
                                                                    907 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 429 (429 - 429) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   Plateau: 0 cmH2O
   SpO2: 96%
   ABG: 7.37/42/95.[**Numeric Identifier 96**]/24/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 240
   Physical Examination
   No acute distress; awake and answering questions/following commands
   RRR
   Bibasilar crackles
   Soft, distended, non-tender, +BS
   Diffusely tender extremities with 1+ b/l LL edema
   Moving all extremities
   Labs / Radiology
   7.6 g/dL
   217 K/uL
   134 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.7 mEq/L
   14 mg/dL
   111 mEq/L
   144 mEq/L
   24.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2150-3-8**]  11:11 AM
                             [**2150-3-8**]  11:29 AM
                             [**2150-3-9**]  12:21 AM
                             [**2150-3-9**]  04:49 AM
                             [**2150-3-9**]  05:12 AM
                             [**2150-3-9**]  05:51 PM
                             [**2150-3-9**]  06:47 PM
                             [**2150-3-10**]  04:59 AM
                             [**2150-3-10**]  05:20 AM
                             [**2150-3-10**]  07:34 AM
   WBC
   9.7
   8.6
   Hct
   24.0
   25.1
   24.7
   Plt
   181
   217
   Cr
   1.0
   1.3
   1.3
   TropT
   0.02
   TCO2
   28
   27
   25
   27
   25
   Glucose
   107
   164
   134
   Other labs: PT / PTT / INR:14.4/28.3/1.3, CK / CKMB /
   Troponin-T:123/4/0.02, ALT / AST:20/21, Alk Phos / T Bili:113/0.6,
   Amylase / Lipase:45/11, Differential-Neuts:87.3 %, Lymph:8.8 %,
   Mono:3.5 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Albumin:3.4 g/dL,
   LDH:217 IU/L, Ca++:7.7 mg/dL, Mg++:3.5 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR- Persistent b/l lower lobe infiltrates/effusions.
   EEG/MRI - pending
   Microbiology: Sputum with MSSA.
   Assessment and Plan
   50 y/o F with h/o chronic pain on methadone, severe COPD with pulm
   HTN/home O2, Crohn's on steroids, here with hypoxemic respiratory
   failure/aspiration PNA, ?pancreatitis.  3rd episode of being found down
   s/p negative previous neuro work-ups. In [**Hospital Unit Name 44**], developed transient
   episodes of HOTN with EKG changes - question of Takotsubo
   cardiomyopathy vs CNS event.
   # Respiratory failure: Likely secondary to aspiration PNA/pneumonitis
   given mental status.  Now with MSSA in sputum and worsening CXR, fever,
   and WBC count. Also element of volume overload with PEEP sensitivity
   - Severe COPD at baseline, home O2, pHTN
 on atrovent/steroids
   - Extubate today
   - Diuresis
   - Consider CPAP if any difficulties with edema after extubation
   - Continue levo
   #Altered mental status: Now improving, but this is her 3rd episode.  No
   focal deficits.
   - F/U EEG and [**Last Name (un) **]
   - Appreciate Neuro input
   - Serial neuro exams
   - LP deferred
   # Hypotension: EKG changes c/w Takotsubo
s CM (TTE now normal) vs CNS
   event.  Does not appear septic. Now resolved.
   - Appreciate cardiology input
   - Stress dose steroids as on chronic steroids for Crohn
   - Beta blocker
   - Repeat EKG
   #Rising creat: ARF (unclear etiology
 most likely intrinsic) vs
   myopathy.
   - Follow CK
   - Follow creatinine/BUN with diuresis
   - Urine lytes
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-3-7**] 04:45 AM
   Arterial Line - [**2150-3-7**] 08:37 AM
   20 Gauge - [**2150-3-7**] 12:14 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2150-03-11 08:00:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2150-3-10**] 09:30 AM
 ARTERIAL LINE - STOP [**2150-3-10**] 02:00 PM
   -More responsive and following commands on PS so rapidly extubated and
   did well throughout day w/good O2 sats and no somnolence
   -Persistently agitated and thought partially due to withdrawal from
   multiple sedating meds/anxiolytics so restarted on quetiapine,
   pregablin, SSRI, and low dose opioid (all at lower than home doses) w/
   less agitation
   -Final MRI read unchanged except possible ectatic vessel w/ cannot r/o
   vasculitis
   -Speech and swallow evaluated and OK'd for ground solids and thin
   liquids
   -Switched to metoprolol from labetalol b/c Takasubyo's ruled out
   -EKG stable to worsened TWI
   -UA w/ trace leuks and hyaline casts
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Darvocet-N 100 (Oral) (Propoxyphene/Acetaminophen)
   Palpitations;
   Aspirin
   contraindicated
   Amitriptyline
   supratherapeuti
   Wellbutrin (Oral) (Bupropion Hcl)
   Mania;
   Last dose of Antibiotics:
   Metronidazole - [**2150-3-9**] 06:00 AM
   Vancomycin - [**2150-3-9**] 08:00 AM
   Ciprofloxacin - [**2150-3-9**] 09:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-3-10**] 08:42 AM
   Famotidine (Pepcid) - [**2150-3-10**] 08:35 PM
   Furosemide (Lasix) - [**2150-3-11**] 01:49 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt denies SOB, CP, HA, n/v. States has her chronic
   back and left leg pain.
   Flowsheet Data as of  [**2150-3-11**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 68 (68 - 92) bpm
   BP: 132/81(93) {94/55(67) - 137/83(97)} mmHg
   RR: 18 (11 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (10 - 19)mmHg
   Total In:
                                                                  1,794 mL
                                                                    529 mL
   PO:
                                                                    300 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    534 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  2,445 mL
                                                                  1,710 mL
   Urine:
                                                                  2,445 mL
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -651 mL
                                                                 -1,181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 99%
   ABG: 7.42/38/84.[**Numeric Identifier 1625**]/28/0
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   257 K/uL
   8.0 g/dL
   115 mg/dL
   1.3 mg/dL
   28 mEq/L
   2.9 mEq/L
   22 mg/dL
   104 mEq/L
   142 mEq/L
   25.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2150-3-9**]  12:21 AM
                             [**2150-3-9**]  04:49 AM
                             [**2150-3-9**]  05:12 AM
                             [**2150-3-9**]  05:51 PM
                             [**2150-3-9**]  06:47 PM
                             [**2150-3-10**]  04:59 AM
                             [**2150-3-10**]  05:20 AM
                             [**2150-3-10**]  07:34 AM
                             [**2150-3-10**]  09:17 AM
                             [**2150-3-11**]  04:00 AM
   WBC
   9.7
   8.6
   8.7
   Hct
   24.0
   25.1
   24.7
   25.5
   Plt
   181
   217
   257
   Cr
   1.0
   1.3
   1.3
   1.3
   TCO2
   27
   25
   27
   25
   25
   Glucose
   107
   164
   134
   115
   Other labs: PT / PTT / INR:14.4/28.3/1.3, CK / CKMB /
   Troponin-T:69/4/0.02, ALT / AST:20/12, Alk Phos / T Bili:113/0.6,
   Amylase / Lipase:45/11, Differential-Neuts:87.3 %, Lymph:8.8 %,
   Mono:3.5 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL,
   LDH:217 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O CARDIOMYOPATHY, OTHER
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   55 year-old female with multiple medical problems including HTN, PVD,
   chronic pain on oxycodone, OSA, ? Crohn
s disease and on multiple
   sedating meds who presented with altered mental status and fever after
   being found down by her son.
   #. Altered mental status:  This was the initial etiology of the
   patient
s need for intubation.  Differential is broad but given
   significant agitation component and lack of focality some suggestion
   this is most likely toxic-metabolic encephalopathy or delirium.  No
   nuchal rigidity, photophobia, or focal neural deficits.  Etiology
   currently unclear with pneumosepsis or other infection vs encephalitis
   vs seizure activity and post-ictal state all being possibilities.  ICU
   delirium in the context of chronic microvascular changes is also a
   concern.   Given patient was hypoxic slightly after being found
   prolonged hypoxia and anoxic brain injury is also on the differential.
   Head CT appears stable this admission.  Neuro consulted on [**3-9**] and did
   uncover some focal deficits.
   - f/u neuro reccs
   - f/u EEG and MRI head
   -have been in contact with [**Name (NI) **] [**Last Name (NamePattern1) 8178**] preceptor for pt
s PCP.
   #. Hypoxemic respiratory failure:  Liklely respiratory acidosis with
   metabolic compensation at baseline secondary to COPD.  Given pneumonia
   potential for tiring in already suboptimal lung now burdened with
   infiltrate.  RSBI of 25 on SBT on [**3-9**] so will attempt to extubate.
   - continue levo (day 1 = [**3-9**]) for aspiration pneumonia
   - diurese with goal of -500cc to -1L as CXR shows pulmonary edema and
   [**Last Name (un) **] unlikely prerenal in etiology
   - initiate ipratropium nebs for hx of COPD
   - hold albuterol nebs in setting of tachycardia
   # ?Takatsubo
s cardiomyopathy: Initially was thought to be hypotensive
   overnight on [**3-9**] but patient was found to have a 10 to 30 mmHg
   systolic blood pressure difference between left radial a-line (lower)
   and right brachial cuff (higher).  Following noninvasive blood
   pressures and using a-line for ABGs.  Persistent T-wave inversions in
   V1-V6; no ECHO evidence of Takatsubo
s at this time but may have been
   present earlier in patient
s presentation.
   - touch base with cards re: changing labetalol to metoprolol
   -Following LUE non-invasive BP
   #  Acute Kidney Injury:  Differential includes pre-renal azotemia, AIN
   secondary to antibiotic allergy, or ATN in setting of prior episodes of
   possible hypotension and hypoperfusion.  FeNa<1% but patient
s FeUrea
   45% in setting of lasix treatment.
   - f/u urine lytes, osmolality, sediment, eosinophils
   - will continue diuresis today because pre-renal azotemia unlikely.
   #. Pancreatitis:  Minimal elevations in amylase and lipase here despite
   reported very high level at OSH.  This does not seem to be the etiology
   of the patient
s symptoms.
   #. Crohns Disease:  Followed by Dr. [**First Name (STitle) 1604**]; per OMR  notes, this
   diagnosis is mainly symptom based with little objective evidence.  EGD
   and colonoscopy normal in 1/[**2150**].  PO budesonide minimally absorbed but
   as she is on this chronically and adrenal insufficiency is on the
   differential for hypotension we will check for adrenal insufficiency.
   -stress dose hydrocort for now but will transition to home dose of
   budesonide after extubation
   #. Chronic Pain:  On fentanyl for sedation, holding other opiates.
   #. HTN: holding lisinopril in setting of [**Last Name (un) **].  Currently on labetalol
   instead of home dose of atenolol per cardiology reccs.
   #. Cushings syndrome:  Secondary to chronic prednisone.  Steroid
   management as above.
   #. Hyperlipidemia: stable.
   - continue atorvostatin
   #. Obstructive sleep apnea:  Will clarify whether patient uses BiPap at
   home.
   #. Depression/anxiety: Will restart home meds today.
   #. COPD:  On baseline home O2 of 3L and has a long smoking history.
   Respiratory failure management as above.
   #. Cor pulmonale:  Has [**3-18**]+ TR at baseline.  Continue to follow.
   #. PVD s/p bilateral CIA stenting in [**6-/2149**]:  continue to follow
    EMERGENCY CONTACT: HCP is sister: [**Name (NI) 141**] [**Name (NI) 8149**] at
   [**Telephone/Fax (5) 8150**] and secondary HCP is son [**Name (NI) 268**] [**Name (NI) 8151**] at
   same #.
   ICU Care
   Nutrition: Regular; Diabetic/Consistent Carbohydrate Consistency:
   Ground (dysphagia); Thin liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2150-3-7**] 04:45 AM
   20 Gauge - [**2150-3-7**] 12:14 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU